US06426345B1
To a mixture of 3-nitroaniline (5.95 g) and triethylamine (6.0 ml) in dichloromethane (40 ml) was added dropwise a solution of benzoyl chloride (5.0 ml) in dichloromethane (20 ml). The mixture was stirred at room temperature for 15 minutes, then poured into a mixture of ethyl acetate and water. The organic phase was separated, washed with brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with isopropyl ether to give 1-benzoylamino-3-nitrobenzene (9.05 g).

reactant | 3-nitroaniline | 5.95 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | triethylamine | 6.0 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 5.0 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-benzoylamino-3-nitrobenzene | 9.05 g | C(C1=CC=CC=C1)(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C13H10N2O3
